US05334716
Sodium hydride (60% dispersion in mineral oil) (4.38 g) was added to an ice cold solution of ethyl 4-[1-(4-acetoxybenzoyl)indolizin-3-yl]butyrate (36.1 g) in a mixture of ethanol (200 ml) and tetrahydrofuran (200 ml). The mixture was stirred for 20 minutes at 0° C. and evaporated. The residual solution was poured into a mixture of diluted hydrochloric acid and ice, and extracted with a mixture of chloroform and methanol (10:1). The organic layer was washed with a sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate and evaporated. The residue was washed with ethyl acetate and diethyl ether to give ethyl 4-[1-(4-hydroxybenzoyl)indolizin-3-yl]butyrate as yellow powder (29.3 g).

reactant | Sodium hydride | 4.38 g | [H-].[Na+]
reactant | ethyl 4-[1-(4-acetoxybenzoyl)indolizin-3-yl]butyrate | 36.1 g | C(C)(=O)OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C23H23NO5
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | ethyl 4-[1-(4-hydroxybenzoyl)indolizin-3-yl]butyrate | 29.3 g | OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C21H21NO4
